* CDL/LVS-oriented netlist
.SUBCKT nor3i_x1 A1 A2 A3 X VDD VSS
XN3I_P0 in0_b A1 VDD VDD pmos w=2u l=100n
XN3I_N0 in0_b A1 VSS VSS nmos w=1u l=100n
XMPA0 pmid1 in0_b VDD VDD pmos w=2u l=100n
XMPB0 pmid2 A2 pmid1 VDD pmos w=2u l=100n
XMPC0 X A3 pmid2 VDD pmos w=2u l=100n
XMNA0 X in0_b VSS VSS nmos w=1u l=100n
XMNB0 X A2 VSS VSS nmos w=1u l=100n
XMNC0 X A3 VSS VSS nmos w=1u l=100n
.ENDS nor3i_x1
